US04061761
c. 4-(4-Chloro-3-diethylsulfamoylphenyl)-3-methyl-2-methylimino-1,3-thiazolidine-4-ol-hydrochloride
4.8g of 3'-diethylsulfamoyl-2,4'-dichloroacetophenone and 1.5 g of 1,3-dimethylthiourea were reacted as prescribed in Example 23 and the crystalline end product was filtered off. Melting point: 165° C (decomposition).

reactant | 3'-diethylsulfamoyl-2,4'-dichloroacetophenone | 4.8g | C(C)N(S(=O)(=O)C=1C=C(C=CC1Cl)C(CCl)=O)CC | C12H15Cl2NO3S
reactant | 1,3-dimethylthiourea | 1.5 g | CNC(=S)NC | C3H8N2S
product | 4-(4-Chloro-3-diethylsulfamoylphenyl)-3-methyl-2-methylimino-1,3-thiazolidine-4-ol-hydrochloride | Cl.ClC1=C(C=C(C=C1)C1(N(C(SC1)=NC)C)O)S(N(CC)CC)(=O)=O | InChI=1S/C15H22ClN3O3S2.ClH/c1-5-19(6-2)24(21,22)13-9-11(7-8-12(13)16)15(20)10-23-14(17-3)18(15)4;/h7-9,20H,5-6,10H2,1-4H3;1H
